US05374720
The same procedure as in Example 1-1 was carried out by using p-nitrobenzyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (1.27 g, 2.14 mmol) and (2S,4S)-4-mercapto-N-(p-nitrobenzyloxycarbonyl)-2-[N-(p-nitrobenzyloxycarbonyl)pyrrolidin-3-yl]pyrrolidine diastereomer B (1.14 g, 2.15 mmol, compound of Reference Example 16) to obtain p-nitrobenzyl (1R,5S,6S)-6-[(R)-1-hydroxyethyl]-1-methyl-2-[(2S,4S)-N-(p-nitrobenzyloxycarbonyl)-2-[N-(p-nitrobenzyloxycarbonyl)pyrrolidin-3-yl]pyrrolidin-4ylthio]-1-carbapen-2-em-3-carboxylate diastereomer B (1.65 g, yield: 88.3%).

reactant | p-nitrobenzyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 2.14 mmol, 1.27 g | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)OC=1[C@@H]([C@@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C29H27N2O10P
reactant | (2S,4S)-4-mercapto-N-(p-nitrobenzyloxycarbonyl)-2-[N-(p-nitrobenzyloxycarbonyl)pyrrolidin-3-yl]pyrrolidine | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C24H26N4O8S
product | p-nitrobenzyl (1R,5S,6S)-6-[(R)-1-hydroxyethyl]-1-methyl-2-[(2S,4S)-N-(p-nitrobenzyloxycarbonyl)-2-[N-(p-nitrobenzyloxycarbonyl)pyrrolidin-3-yl]pyrrolidin-4ylthio]-1-carbapen-2-em-3-carboxylate | yield: 88.3% | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C2CN(CC2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C41H42N6O14S
